US08067620B2
Step 1. To a solution of ethanolamine (0.54 g, 8.82 mmol) in water (20 ml) was added divinylsulfoxide (1.0 g, 9.8 mmol). After the reaction mixture was refluxed for 0.5 h, the mixture was concentrated and dried at 50° C. to afford 4-(2-hydroxyethyl)thiomorpholine 1-oxide (1.50 g, 94%) as a colorless liquid. 1H NMR (500 MHz, CDCl3) δ 2.65 (t, J=5.4 Hz, 2H), 2.75-3.02 (m, 6H), 3.05-3.31 (m, 3H), 3.66 (t, J=5.4 Hz, 2H). Step 2. To a solution of OZ288 (0.50 g, 1.4 mmol), 4-(2-hydroxyethyl)thiomorpholine 1-oxide (0.34 g, 2.1 mmol), triphenylphosphine (0.55 g, 2.1 mmol), and triethylamine (0.29 ml, 2.1 mmol) in dry THF (50 ml) at 0° C. was added dropwise a solution of DIAD (0.43 g, 2.1 mmol) in THF (10 ml). After stirring at rt overnight, the solvent was removed under vacuum. The residue was dissolved in EtOAc (50 ml), washed with water (3×50 ml), dried over MgSO4, and concentrated. The residue was purified by chromatography (silica gel, 50% EtOH in EtOAc) to afford OZ464 free base (0.51 g, 73%) as a colorless solid. To a solution of OZ464 free base (0.51 g, 1.0 mmol) in EtOAc (10 ml) at 0° C. was added dropwise a solution of methanesulfonic acid (0.14 g, 1.4 mmol) in ether (10 ml). The resulting precipitate was filtered, washed with ether (25 ml), and dried in vacuo at 40° C. to afford trioxolane OZ464 (0.51 g, 85%) as a colorless solid. mp 139-141° C.; 1H NMR (500 MHz, DMSO-d6) δ 1.45-1.98 (m, 22H), 2.37 (s, 3H), 2.53-2.64 (m, 1H), 3.08-3.26 (m, 4H), 3.41-3.92 (m, 6H), 4.36 (brs, 2H), 6.95 (J=8.8 Hz, 2H), 7.17 (J=8.3 Hz, 2H), 10.06 (s, 1H); 13C NMR (125.7 MHz, DMSO-d6) δ 26.00, 26.41, 31.47, 34.26, 34.44, 35.97, 36.27, 39.90, 40.90, 42.09, 42.46, 55.80, 62.12, 108.29, 110.72, 114.89, 127.72, 139.13, 155.99. Anal. Calcd for C29H43NO8S2: C, 58.27; H, 7.25; N, 2.34. Found: C, 58.46; H, 7.14; N, 2.36.

reactant | ethanolamine | 8.82 mmol, 0.54 g | C(O)CN | C2H7NO
reactant | divinylsulfoxide | 9.8 mmol, 1.0 g | C(=C)S(=O)C=C | C4H6OS
solvent | water | 20 ml | O | H2O
product | 4-(2-hydroxyethyl)thiomorpholine 1-oxide | 1.50 g, 94% | OCCN1CCS(CC1)=O | C6H13NO2S
